US05401858
A mixture of 10 g (9.6 mmol) 1,4-O-dicarbotrichloroethoxy-3-O-dicarbotrichloroethoxycaffeoyl quinide is stirred for 5 days at ambient temperature in 65 ml THF and 8 ml concentrated HCl. After separation of the THF and saturation with NaCl, the aqueous phase is extracted with 3×40 ml ethyl acetate. The combined extracts are then washed with brine and dried over sodium sulfate and the solvent is evaporated. Treatment of the residue with a mixture of 1 volume dichloromethane to 10 volumes hexane gives 9.5 g 1,4-O-dicarbotrichloroethoxy-3-O-dicarbotrichloroethoxycaffeoyl quinic acid (yield 93%) in the form of an amorphous solid.

reactant | quinide | 9.6 mmol, 10 g | C1[C@@H]([C@@H]([C@@H]2C[C@]1(C(=O)O2)O)O)O | C7H10O5
reactant | THF | 65 ml | C1CCOC1 | C4H8O
solvent | HCl | 8 ml | Cl | ClH
product | quinic acid | 9.5 g, yield 93% | C1[C@@](C[C@H]([C@@H]([C@@H]1O)O)O)(O)C(=O)O | C7H12O6
